US04743640
Preparation of 1-n-hexadecyloxycarbonyloxy-1-phenyl-2-benzoylethene (compound 2)
The preparation is carried out as described in Example 1, using 44.8 g (0.2 mole) of dibenzoyl methane, 61.0 g (0.2 mole) of n-hexadecyl chloroformate and 200 ml of diethyl ether as well as 22 g (0.22 mole) of triethylamine. The resultant yellow viscous liquid crystallises out. The crystals melt at 39°-40° C.

reactant | dibenzoyl methane | 0.2 mole, 44.8 g | C(C1=CC=CC=C1)(=O)CC(C1=CC=CC=C1)=O | C15H12O2
reactant | n-hexadecyl chloroformate | 0.2 mole, 61.0 g | ClC(=O)OCCCCCCCCCCCCCCCC | C17H33ClO2
reactant | triethylamine | 0.22 mole, 22 g | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 1-n-hexadecyloxycarbonyloxy-1-phenyl-2-benzoylethene | C(CCCCCCCCCCCCCCC)OC(=O)OC(=CC(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C32H44O4
